US07211573B2
To a solution of 0.07 g (0.37 mmol) (S)-7-amino-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one in 7 ml tetrahydrofurane were added 0.15 g (0.59 mmol) 2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid, 0.09 g (0.59 mmol) 1-hydroxybenzotriazole hydrate, 0.12 g (0.59 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochloride and 1.0 ml (5.9 mmol) diisopropylethylamine. After stirring at room temperature over night the solvent was removed by distillation and the residue was purified by chromatography on silicagel with ethylacetate/heptane (gradient 0–80/100–20) to yield 0.06 g (23%) 2-methyl-N-((S)-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide as light yellow solid, MS m/e (%): 410.3 (M+H+, 100).

reactant | (S)-7-amino-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one | 0.37 mmol, 0.07 g | N[C@H]1COC2=C(NC1=O)C=CC=C2 | C9H10N2O2
reactant | 2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | 0.59 mmol, 0.15 g | CC(C(=O)O)C(=O)NCC(C(F)(F)F)(F)F | C7H8F5NO3
reactant | 1-hydroxybenzotriazole hydrate | 0.59 mmol, 0.09 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimid-hydrochloride | 0.59 mmol, 0.12 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 5.9 mmol, 1.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | 2-methyl-N-((S)-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | 0.06 g, 23% | CC(C(=O)N[C@H]1COC2=C(NC1=O)C=CC=C2)C(=O)NCC(C(F)(F)F)(F)F | C16H16F5N3O4
